US06194409B1
A mixture of 4.0 mL of diethyl-azodicarboxylate in 20 mL of dry tetrahydrofuran was added at 5° C. to a stirred solution of 3.5 g of 4-bromo-phenol, 2.4 mL of 4-hydroxy-tetrahydropyran and 6.6 g triphenylphosphine in 75 mL of tetrahydrofuran within 30 minutes. Stirring was continued at room temperature for 72 hours. The solvent was evaporated in vacuo and the residue chromatographed on silica gel (ethyl acetate) yielding 5.6 g of 4-(4-bromo-phenoxy)-tetrahydropyran as a white solid. M.p. 53-55° C., EI-MS: 256 (M+).

reactant | diethyl-azodicarboxylate | 4.0 mL | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | 4-bromo-phenol | 3.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 4-hydroxy-tetrahydropyran | 2.4 mL | OC1CCOCC1 | C5H10O2
reactant | triphenylphosphine | 6.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 4-(4-bromo-phenoxy)-tetrahydropyran | 5.6 g | BrC1=CC=C(OC2CCOCC2)C=C1 | C11H13BrO2
